US09403801B2
Step 1) tert-butyl 5-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a suspension of tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (633.5 mg, 1.70 mmol) and 2-(4-amino-1H-pyrazol-1-yl)ethanol (249.1 mg, 1.99 mmol) in i-PrOH (8 mL) was added a solution of HCl in EtOAC ((1 mL, 4 mmol)). The reaction mixture was stirred at 140° C. under microwave radiation for 1 h and concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with a saturated Na2CO3 aqueous solution, then extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/30) to give the title compound as a yellow solid (0.50 g, 63%).

reactant | tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 1.70 mmol, 633.5 mg | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)Cl | C16H22Cl2N4O2
reactant | 2-(4-amino-1H-pyrazol-1-yl)ethanol | 1.99 mmol, 249.1 mg | NC=1C=NN(C1)CCO | C5H9N3O
reactant | HCl | Cl | ClH
solvent | i-PrOH | 8 mL | CC(C)O | C3H8O
product | tert-butyl 5-((5-chloro-2-((1-(2-hydroxyethyl)-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 0.50 g, 63% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)CCO)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C21H30ClN7O3
